US06818772B2
3-bromo-N-{4-((7-chloroquinolin-4-yl)amino)cyclohexyl}-5-fluorobenzamide
A mixture of 23A cis-N,N′-bis(7-chloroquinolin-4-yl)cyclohexane-1,4-diamine (500 mg, 3.6 mmol), 3-bromo-5-fluorobenzoic acid (600 mg, 5.4 mmol), 1-hydroxybenzotriazole (245 mg, 3.6 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide(348 mg, 3.6 mmol) in 30 mL dichloromethane was stirred for 3 hours. The reaction was incomplete. 3-bromo-5-fluorobenzoic acid (160 mg, 0.9 mmol), 1-hydroxybenzotriazole (61 mg, 0.9 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (87 mg, 0.9 mmol) was added and the solution was allowed to stir overnight. The solution was then washed with 1N NaOH, dried (Na2SO4), and concentrated. The residue was purified by flash chromatography (10% methanol in dichloromethane) to provide 700 mg of pure compound, an 81% yield. MS (ESI(+)Q1MS m/z 477 (M+2 H)+; 1H NMR (300 MHz, MeOH) δ ppm 8.36-8.42 (m, 3 H), 7.95 (t, 1 H), 7.69-7.79 (m, 3 H), 7.45 (dd, 1 H), 6.83 (d, 1 H), 6.54 (d, 1 H), 3.95 (m, 1 H), 3.68 (m, 1 H), 1.66-1.98 (m, 8 H).

reactant | cis-N,N′-bis(7-chloroquinolin-4-yl)cyclohexane-1,4-diamine | 3.6 mmol, 500 mg | ClC1=CC=C2C(=CC=NC2=C1)N[C@@H]1CC[C@@H](CC1)NC1=CC=NC2=CC(=CC=C12)Cl | C24H22Cl2N4
reactant | 3-bromo-5-fluorobenzoic acid | 5.4 mmol, 600 mg | BrC=1C=C(C(=O)O)C=C(C1)F | C7H4BrFO2
reactant | 1-hydroxybenzotriazole | 3.6 mmol, 245 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 3.6 mmol, 348 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | 3-bromo-5-fluorobenzoic acid | 0.9 mmol, 160 mg | BrC=1C=C(C(=O)O)C=C(C1)F | C7H4BrFO2
reactant | 1-hydroxybenzotriazole | 0.9 mmol, 61 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 0.9 mmol, 87 mg | CN(CCCN=C=NCC)C | C8H17N3
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 3-bromo-N-{4-((7-chloroquinolin-4-yl)amino)cyclohexyl}-5-fluorobenzamide | 700 mg, 81% yield | BrC=1C=C(C(=O)NC2CCC(CC2)NC2=CC=NC3=CC(=CC=C23)Cl)C=C(C1)F | C22H20BrClFN3O
